US05210092
To a stirred mixture of 1-(4-methylphenyl)pyrrole-2-carbonitrile (10 g), silica gel (46 g) and carbon tetrachloride (150 ml) was added dropwise a solution of tertbutyl hypochlorite (8.1 g) in carbon tetrachloride (15 ml). After stirring for 1 hour at ambient temperature, the precipitate was filtered off and the filtrate was evaporated in vacuo to give an oily residue which was crystallized from n-hexane. The crystals were further purified by silica gel column chromatography (SiO2 100 g, n-hexane-toluene=1:1) and subsequent crystallization from n-hexane to give colorless crystals (3.92 g) of 4-chloro-1-(4-methylphenyl)pyrrole-2-carbonitrile.

reactant | 1-(4-methylphenyl)pyrrole-2-carbonitrile | 10 g | CC1=CC=C(C=C1)N1C(=CC=C1)C#N | C12H10N2
reactant | tertbutyl hypochlorite | 8.1 g | ClOC(C)(C)C | C4H9ClO
solvent | carbon tetrachloride | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-chloro-1-(4-methylphenyl)pyrrole-2-carbonitrile | 3.92 g | ClC=1C=C(N(C1)C1=CC=C(C=C1)C)C#N | C12H9ClN2
